US05834506
5-tert-Butyl-2-methyl-phenylamine
A solution of (239 g, 1.2 mol) 4-tert-butyl-1-methyl-2-nitro-benzene (M. S. Carpenter, W. M. Easter, T. F. Wood, J. Org. Chem. (1951), 586) in MeOH (1.0 L) was treated with Raney nickel (25 g) in a Parr shaker. The apparatus was sealed under hydrogen pressure to 52 psi, heated to 35° C. for 15 hours, and cooled to room temperature. The apparatus was vented and the contents filtered. The filtrate was concentrated in vacuo and distilled, collecting the major fraction (75°-85° C., 1.0 torr). 1H NMR (CDCl3) δ 1.26 (s, 9 H), 2.11 (s, 3 H), 3.54 (bs, 2 H), 6.69 (d, 1 H), 6.72 (dd, 1 H), 6.96 (d, 1 H).

reactant | 4-tert-butyl-1-methyl-2-nitro-benzene | 1.2 mol, 239 g | C(C)(C)(C)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H15NO2
solvent | MeOH | 1.0 L | CO | CH4O
catalyst | Raney nickel | 25 g | [Ni] | Ni
product | 5-tert-Butyl-2-methyl-phenylamine | C(C)(C)(C)C=1C=CC(=C(C1)N)C | C11H17N
